US05578620
2-t-Butyldimethylsilyloxy-1,1-dimethylethylamine
A procedure similar to that described in Preparation 9 was repeated, except that 8.00 g of benzyl N-[2-t-butyldimethylsilyloxy-1,1-dimethylethyl]carbamate (prepared as described in Preparation 103), 1.60 g of 10% w/w palladium-on-carbon and 80 ml of ethanol were used, to give 4.02 g of the title compound having an Rf value of 0.14 (on silica gel thin layer chromatography, using ethyl acetate as the eluent).

reactant | benzyl N-[2-t-butyldimethylsilyloxy-1,1-dimethylethyl]carbamate | 8.00 g | [Si](C)(C)(C(C)(C)C)OCC(C)(C)NC(OCC1=CC=CC=C1)=O | C18H31NO3Si
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-t-Butyldimethylsilyloxy-1,1-dimethylethylamine | 4.02 g | [Si](C)(C)(C(C)(C)C)OCC(C)(C)N | C10H25NOSi
